US09035059B2
N-(4-Fluorophenyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide
An aqueous solution (10 mL) of potassium hydroxide (2.24 g, 40.0 mmol) was added to a suspension of N-(4-fluorophenyl)-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide obtained (8.05 g, 20.0 mmol) in ethanol (40 mL), and the mixture was stirred at room temperature for 15 hr. The mixture was concentrated under reduced presesure and then diluted with water. While cooling in ice, 3 mol/L hydrochloric acid was added dropwise thereto to adjust the pH to 7 to 8. A precipitated solid was collected by filtration to afford the title compound as a colorless powder (6.04 g).

reactant | potassium hydroxide | 40.0 mmol, 10 mL, 2.24 g | [OH-].[K+]
reactant | N-(4-fluorophenyl)-2-(trifluoroacetyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | FC1=CC=C(C=C1)NS(=O)(=O)C=1C=C2CCN(CC2=CC1)C(C(F)(F)F)=O | C17H14F4N2O3S
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | N-(4-Fluorophenyl)-1,2,3,4-tetrahydroisoquinoline-6-sulfonamide | 6.04 g | FC1=CC=C(C=C1)NS(=O)(=O)C=1C=C2CCNCC2=CC1 | C15H15FN2O2S
